US08222417B2
Synthesis of 3,4-dihydro-2H-1,4-benzothiazine
To a solution of 2-aminothiophenol (5.01 g) in ethyl acetate (20 ml), 1,2-dibromoethane (4.14 ml) was added and stirred while heating at 60° C. under a nitrogen atmosphere. To the reaction mixture, triethylamine (9.72 ml) was added dropwise over 30 minutes and stirred at 60° C. for 10 hours. The reaction mixture was allowed to stand overnight at room temperature and then filtered to remove insoluble materials. The filtrate was washed sequentially with water and brine, dried over anhydrous sodium sulfate and then filtered to remove the desiccant, followed by distilling off the solvent under reduced pressure. The resulting residue was purified by silica gel column chromatography (eluting solvent: n-hexane:ethyl acetate=9:1 to 3:1) to give the titled compound, i.e., 3,4-dihydro-2H-1,4-benzothiazine (3.69 g) as a red-brown oil.

reactant | 2-aminothiophenol | 5.01 g | NC1=C(C=CC=C1)S | C6H7NS
reactant | triethylamine | 9.72 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | 1,2-dibromoethane | 4.14 ml | BrCCBr | C2H4Br2
product | 3,4-dihydro-2H-1,4-benzothiazine | 3.69 g | S1CCNC2=C1C=CC=C2 | C8H9NS
